US07790720B2
14.1 Synthesis of 5-bromo-2-[4-(3-chloropropoxy)-phenyl]-4-chloromethyl-oxazole i89
A solution of 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole ax57 (0.5 g, 1.75 mmol, 1 eq) and N-bromosuccinimide (0.31 g, 1.75 mmol, 1 eq) in acetonitrile (16 ml) is stirred at 22° C. for 30 minutes. A heavy white precipitate forms during the reaction. The suspension is then filtered, the solid is washed with the minimum amount acetonitrile, collected and dried under vacuum at 40° C. to yield 290 mg of the title compound. The acetonitrile solution is concentrated to half its original volume to yield an additional 110 mg of 5-bromo-2-[4-(3-chloropropoxy)-phenyl]-4-chloromethyl-oxazole i89.

reactant | 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole | ClCC=1N=C(OC1)C1=CC=C(C=C1)OCCCCl | C13H13Cl2NO2
reactant | N-bromosuccinimide | 1.75 mmol, 0.31 g, 1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
product | 5-bromo-2-[4-(3-chloropropoxy)-phenyl]-4-chloromethyl-oxazole | 290 mg | BrC1=C(N=C(O1)C1=CC=C(C=C1)OCCCCl)CCl | C13H12BrCl2NO2
